US07767677B2
Synthesis of {4-[6-(1H-benzoimidazol-2-yl)pyridazin-3-yl]piperazin-1-yl}-(2-trifluoromethylphenyl)methanone
Following the procedure as described in Example 6, making variations only as required to use 2-(6-piperazin-1-ylpyridazin-3-yl)-1H-benzoimidazole in place of 2-(6-piperazin-1-ylpyridin-3-yl)-1H-benzoimidazole to react with 2-trifluoromethylbenzoyl chloride, the title compound was obtained as a white powder in 27% yield (0.122 g). 1H NMR (300 MHz, CDCl3) δ 13.25 (s, 1H), 8.16 (d, J=9.6 Hz, 1H), 7.82 (d, J=7.8 Hz, 1H), 7.75 (t, J=7.5 Hz, 1H), 7.65 (t, J=7.6 Hz, 2H), 7.54 (d, J=7.5 Hz, 1H), 7.47 (d, J=7.6 Hz, 1H), 7.42 (d, J=9.6 Hz, 1H), 7.22-7.13 (m, 2H), 3.87-3.56 (m, 6H), 3.26-3.12 (m, 2H). 13C NMR (75 MHz, CDCl3) δ 165.1, 158.2, 148.1, 142.8, 142.5, 133.7, 133.4, 131.8, 128.4, 126.4, 125.4, 124.9, 124.4, 124.3, 123.9, 121.8, 120.8, 117.8, 112.4, 110.6, 44.8, 42.9, 42.7, 39.6. MS (ES+) m/z 453.3 (M+1).

reactant | 2-(6-piperazin-1-ylpyridazin-3-yl)-1H-benzoimidazole | N1(CCNCC1)C1=CC=C(N=N1)C1=NC2=C(N1)C=CC=C2 | C15H16N6
reactant | 2-trifluoromethylbenzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | {4-[6-(1H-benzoimidazol-2-yl)pyridazin-3-yl]piperazin-1-yl}-(2-trifluoromethylphenyl)methanone | 27% yield | N1C(=NC2=C1C=CC=C2)C2=CC=C(N=N2)N2CCN(CC2)C(=O)C2=C(C=CC=C2)C(F)(F)F | C23H19F3N6O
